US05593993
1-[(2-naptho[1,2]thiazolyl)thiocarbamoyl]imidazole
A solution of 1,1'-thiocarbonyldiimidazole (1.8 g, 20 mmol) and 2-aminonaptho[1,2]thiazole (2.0 g, 20 mmol) in acetonitrile (150 mL) was stirred at 65° C. for 24 h. The resulting precipitate was collected by filtration to provide 1.69 g (46%) of the titled product.

reactant | 1,1'-thiocarbonyldiimidazole | 20 mmol, 1.8 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 2-aminonaptho[1,2]thiazole | 20 mmol, 2.0 g | NN1SC2=C(C1)C1=CC=CC=C1C=C2 | C11H10N2S
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 1-[(2-naptho[1,2]thiazolyl)thiocarbamoyl]imidazole | 1.69 g, 46% | C1N(SC2=C1C1=CC=CC=C1C=C2)NC(=S)N2C=NC=C2 | C15H12N4S2
